US07799796B2
To a solution of 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (0.56 g, 1.4 mmoles) in dichloromethane (40 ml) and pyridine (4 ml) was slowly added methyl 4-chloro-4-oxobutyrate (1.3 ml, 7.5 mmoles). The mixture was stirred at room temperature for 60 hours, and then solvent was removed under reduced pressure. The residue was washed twice with water, dissolved in a mixture of concentrated aqueous ammonium hydroxide and methanol (10 ml/40 ml), and stirred at room temperature for one hour. Solvent was evaporated under reduced pressure and the residue was partitioned between dichloromethane and water. The organic phase was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (1% methanol in dichloromethane) to give crude N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-succinamic acid methyl ester (0.54 g, not shown) as a foam, MS (M+H)=515.

reactant | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 1.4 mmoles, 0.56 g | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
reactant | methyl 4-chloro-4-oxobutyrate | 7.5 mmoles, 1.3 ml | ClC(CCC(=O)OC)=O | C5H7ClO3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-succinamic acid methyl ester | COC(CCC(=O)NC1=NC=C(C(=N1)N)OC1=C(C=C(C(=C1)I)OC)C(C)C)=O | C19H23IN4O5
